US07618964B2
b) 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine
12.0 g 6-nitro-2-phenyl-3H-imidazo[4,5-b]pyridine were dissolved in 1 l acetic acid. 18 g iron powder were added and the mixture heated to 80° C. with stirring. After 2 hrs the mixture was cooled to room temperature and filtered over Celite. The celite pad was washed with methanol and the combined filtrates were evaporated. The residue was dissolved methanol/dichloromethane 1:1 and filtered over silica. The filtrate was concentrated to a volume of 100 ml, the resulting precipitate collected by filtration and washed with methanol. Yield 7.68 g

reactant | 6-nitro-2-phenyl-3H-imidazo[4,5-b]pyridine | 12.0 g | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=N2)C2=CC=CC=C2 | C12H8N4O2
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
catalyst | iron | 18 g | [Fe] | Fe
product | 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine | C1(=CC=CC=C1)C1=NC=2C(=NC=C(C2)N)N1 | C12H10N4
